US06777406B2
(±)-cis-N-benzyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine
Using benzaldehyde and following the procedures described in EXAMPLE 76, (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±)-cis-N-benzyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine, bis-trifluoroacetic acid salt, after HPLC purification (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 118 as the free base. LRMS (ES)+: 306.3 (M+H)+.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H25N3O2
product | (±)-cis-N-benzyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine | C(C1=CC=CC=C1)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CNC3 | C20H23N3
